US07842688B2
b) Benzyl 3-{4-[4-(benzyloxycarbonylmethylamino)butyl]-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The stirred solution of 0.351 g of benzyl 3-[4-(4-benzyloxycarbonylaminobutyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 8 ml of N,N-dimethylformamide is admixed at 0° C. with 0.031 g of sodium hydride (60% dispersion). After 1 hour, 0.144 ml of methyl iodide is added and the mixture is kept at 75° C. over 18 hours. The mixture is cooled, poured onto aqueous 1M sodium hydrogencarbonate solution (40 ml) and extracted with ethyl acetate (2×40 ml). The organic phases are washed with brine (40 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.17 (1:1 EtOAc-heptane); Rt=6.18.

reactant | benzyl 3-[4-(4-benzyloxycarbonylaminobutyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.351 g | C(C1=CC=CC=C1)OC(=O)NCCCCN1C(COC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)=O | C51H57N3O10
reactant | sodium hydride | 0.031 g | [H-].[Na+]
reactant | methyl iodide | 0.144 ml | CI | CH3I
reactant | sodium hydrogencarbonate | 1M, 40 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | Benzyl 3-{4-[4-(benzyloxycarbonylmethylamino)butyl]-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)CNCCCCN1C(COC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)=O | C52H59N3O10
